US04714702
3.5 g of N-(2-fluoroacetamido-5-nitrobenzoyl)-2,3-dimethylaniline, 3.0 g of boron trifluoride etherate and 30 ml of acetic acid are treated in the same manner as described in Example 1-(2), whereby 2.8 g of 2-fluoromethyl-3-(2,3-dimethylphenyl)-6-nitro-4(3H)-quinazolinone are obtained as yellow prisms.

reactant | N-(2-fluoroacetamido-5-nitrobenzoyl)-2,3-dimethylaniline | 3.5 g | FCC(=O)NC1=C(C(=O)NC2=C(C(=CC=C2)C)C)C=C(C=C1)[N+](=O)[O-] | C17H16FN3O4
reactant | boron trifluoride etherate | 3.0 g | B(F)(F)F.CCOCC
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-fluoromethyl-3-(2,3-dimethylphenyl)-6-nitro-4(3H)-quinazolinone | 2.8 g | FCC1=NC2=CC=C(C=C2C(N1C1=C(C(=CC=C1)C)C)=O)[N+](=O)[O-] | C17H14FN3O3
